US07612114B2
6-{2-{[4-(1-Azabicyclo[2.2.2]oct-4-ylmethoxy)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester and 4-(1-azabicyclo[2. 2.2]oct-4-ylmethoxy)benzaldehyde according to an analogous synthetic method to Example 212, pivalic acid 6-{2-{[4-(1-azabicyclo[2.2.2]oct-4-ylmethoxy)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (30 mg) was used according to an analogous synthetic method to Example 217 to provide the title compound (18 mg).

reactant | pivalic acid 6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | C(C)NC1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C24H31NO3
reactant | 4-(1-azabicyclo[2. 2.2]oct-4-ylmethoxy)benzaldehyde | N12CCC(CC1)(CC2)COC2=CC=C(C=O)C=C2 | C15H19NO2
reactant | pivalic acid 6-{2-{[4-(1-azabicyclo[2.2.2]oct-4-ylmethoxy)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 30 mg | N12CCC(CC1)(CC2)COC2=CC=C(CCCNC1=C(C=CC(=C1)OC)C1CC=3C=CC(=CC3CC1)OC(C(C)(C)C)=O)C=C2 | C39H50N2O4
product | 6-{2-{[4-(1-Azabicyclo[2.2.2]oct-4-ylmethoxy)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 18 mg | N12CCC(CC1)(CC2)COC2=CC=C(CCCNC1=C(C=CC(=C1)OC)C1CC=3C=CC(=CC3CC1)O)C=C2 | C34H42N2O3
